US07683064B2
Methyl 4-cyclopropyl-2-methylbenzoate (32.00 g, 168 mmol), 250 mL of 5 M aqueous sodium hydroxide, and 150 mL of methanol were stirred at 85° for 18 hr. Cooled the reaction mixture to room temperature and concentrated in vacuo. Dissolved the white residue in 500 mL of water, cooled the solution in an ice bath, and added 120 mL of concentrated hydrochloric acid. A white precipitate formed. Extracted the aqueous mixture with 2×250 mL EtOAc. Combined the organic extracts and washed with 250 mL brine. Dried the solution over MgSO4 and concentrated in vacuo to obtain 4-cyclopropyl-2-methylbenzoic acid as an off-white solid (29.52 g, 168 mmol). MS (ESI) MS (ESI) 175.0 (M−H)−.

reactant | Methyl 4-cyclopropyl-2-methylbenzoate | 168 mmol, 32.00 g | C1(CC1)C1=CC(=C(C(=O)OC)C=C1)C | C12H14O2
reactant | sodium hydroxide | 5 M, 250 mL | [OH-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
product | 4-cyclopropyl-2-methylbenzoic acid | 168 mmol, 29.52 g | C1(CC1)C1=CC(=C(C(=O)O)C=C1)C | C11H12O2
